US03986930
2,3-Dimercaptopropanol (12.0 g) is dissolved in benzene (75 ml) and thereto is added dropwise lauroyl chloride (21.5 g) with stirring. The mixture is refluxed with stirring for about 3.5 hours until the generation of hydrogen chloride is ceased to evolve. The mixture is then distilled to remove benzene and the resulting residue is distilled to give 2,3-dimercaptopropyl laurate (11.5 g) as a yellow oily substance, b.p. 167° - 175° C/1 mmHg.

reactant | 2,3-Dimercaptopropanol | 12.0 g | SC(CO)CS | C3H8OS2
reactant | lauroyl chloride | 21.5 g | C(CCCCCCCCCCC)(=O)Cl | C12H23ClO
reactant | hydrogen chloride | Cl | ClH
solvent | benzene | 75 ml | C1=CC=CC=C1 | C6H6
product | 2,3-dimercaptopropyl laurate | 11.5 g | C(CCCCCCCCCCC)(=O)OCC(CS)S | C15H30O2S2
